US04315766
25 parts by weight of 3-difluoromethoxybenzoyl chloride and 12.2 parts by weight of triethylamine are added over 15 minutes, from 2 separate feeds, to a stirred mixture of 16.6 parts by weight of anthranilic acid in 360 parts by weight of 1,2-dichloroethane at 25°-30° C. After stirring for 2 hours at 25° C., the reaction mixture is extracted with 0.5 N hydrochloric acid and with water. The organic phase is then extracted with four times 100 parts of 0.5 N sodium hydroxide solution, and the extracts are stirred into dilute hydrochloric acid. After filtration and drying, 30.4 parts by weight, corresponding to 82% of theory, of N-(3-difluoromethoxybenzoyl)-anthranilic acid of melting point 186°-191° C. are obtained. 8.33 Parts by weight of thionyl chloride are introduced into a stirred mixture of 18 parts by weight of N-(3-difluoromethoxybenzoyl)-anthranilic acid in 250 parts by weight of 1,2-dichloroethane at 25° C.; the mixture is then stirred for 4 hours under reflux. When it has cooled, the reaction mixture is extracted with 100 parts by volume of ice-water and 100 parts by volume of 0.5 N sodium hydroxide solution and is chromatographed over neutral aluminum oxide. 12 parts by weight, corresponding to 71% of theory, of 2-(3'-difluoromethoxy-phenyl)-3,1-benzoxazin-4-one, of melting point 84°-87° C., are obtained.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N-(3-difluoromethoxybenzoyl)-anthranilic acid | FC(OC=1C=C(C(=O)NC=2C(C(=O)O)=CC=CC2)C=CC1)F | C15H11F2NO4
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-(3'-difluoromethoxy-phenyl)-3,1-benzoxazin-4-one | FC(OC=1C=C(C=CC1)C1=NC2=C(C(O1)=O)C=CC=C2)F | C15H9F2NO3
